US05804097
b. Preparation of 4-hydroxyphenyl 4-methylbenzoate
16.9 g (0.042 mol) of 4-benzoxyphenyl 4-methylbenzoate are added to 250 ml of ethanol and hydrogenated at room temperature using Raney nickel under a hydrogen atmosphere at atmospheric pressure. The catalyst is subsequently filtered off with suction and destroyed using ethanol. The filtrate is evaporated, and the product is purified by filtration through silica gel.

reactant | 4-benzoxyphenyl 4-methylbenzoate | 0.042 mol, 16.9 g | CC1=CC=C(C(=O)OC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C21H18O3
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-hydroxyphenyl 4-methylbenzoate | CC1=CC=C(C(=O)OC2=CC=C(C=C2)O)C=C1 | C14H12O3
